US07129208B2
A solution of dioctadecylamine (2.0 g, 3.8 mmol) and diglycolic anhydride (0.44 g, 3.8 mmol) was refluxed in toluene (50 mL) for 48 h. The solvent was then evaporated and the crude product recrystallized form CHCl3 to give (C18H37)2NCOCH2OCH2COOH as a white solid (2.12 g, 87%), mp 80–81° C. 1H-NMR (300 MHz, δ, CDCl3): 0.87 (6H, t, J=6.9 Hz), 1.25 (64H, m), 1.55 (4H, bs), 3.07 (2H, t, J=7.8 Hz), 3.34 (2H, t, J=7.8 Hz), 4.21 (2H, s), 4.38 (2H, s). 13C-NMR (75 MHz, δ, CDCl3): 14.2, 22.8, 26.9, 27.0, 27.5, 28.7, 29.4, 29.5, 29.6, 29.7, 29.8, 32.0, 47.0, 71.4, 73.2, 171.0, 172.2. IR (KBr, cm−1): 1748 (CO), 1602 (CO).

reactant | dioctadecylamine | 3.8 mmol, 2.0 g | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
reactant | diglycolic anhydride | 3.8 mmol, 0.44 g | C1(COCC(=O)O1)=O | C4H4O4
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (C18H37)2NCOCH2OCH2COOH | 2.12 g, 87% | N(CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)C(=O)COCC(=O)O | C40H79NO4
